US06025375
To a solution of 1-hydroxy-1-(4,5-diphenyloxazol-2-yl)-2-(3-methoxybenzyl)cyclopentane (8.0 g) in toluene (160 ml) was added potassium hydrogensulfate (2.6 g), and the solution was stirred for 1 hour under reflux. After being cooled, the solution was washed with water, saturated sodium bicarbonate aqueous solution and brine and evaporated in vacuo. The oily residue was chromatographed on silica gel to afford a mixture (8.0 g) of 1-(4,5-diphenyloxazol-2-yl)-5-(3-methoxybenzyl)-cyclopentene and 1-(4,5-diphenyloxazol-2-yl)-2-(3-methoxybenzyl)cyclopentene.

reactant | 1-hydroxy-1-(4,5-diphenyloxazol-2-yl)-2-(3-methoxybenzyl)cyclopentane | 8.0 g | OC1(C(CCC1)CC1=CC(=CC=C1)OC)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H27NO3
reactant | potassium hydrogensulfate | 2.6 g | S(=O)(=O)(O)[O-].[K+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4,5-diphenyloxazol-2-yl)-5-(3-methoxybenzyl)-cyclopentene | 8.0 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCCC1CC1=CC(=CC=C1)OC | C28H25NO2
